US05061720
5-Amino-2-hydroxybenzoic acid methyl ester.
To a stirred solution of 76.6 g (0.5 mole) of 5-aminosalicyclic acid in 252.0 g (8 mole) of methanol was added 150.0 g (1.06 mole) of borontrifluoride etherate (Aldrich) and the mixture was heated at reflux overnight. The reaction mixture was treated with 150 mL of water and filtered. The filtrate pH was adjusted to 8.4 with sodium bicarbonate, and the resulting solid was collected by filtration and air dried to give 43.0 g (51%) of crude title compound as a solid. A sample was dissolved in methylene chloride, treated with charcoal and filtered. The filtrate was concentrated under reduced pressure to give a solid. The solid was recrystallized from methylene chloride-petroleum ether (30°-60° C.) to give title compound as golden-brown needles, mp 95°-98° C.

reactant | 5-aminosalicyclic acid | 0.5 mole, 76.6 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | methanol | 8 mole, 252.0 g | CO | CH4O
reactant | borontrifluoride etherate | 1.06 mole, 150.0 g | B(F)(F)F.CCOCC
reactant | charcoal | C | CH4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | 5-Amino-2-hydroxybenzoic acid methyl ester | COC(C1=C(C=CC(=C1)N)O)=O | C8H9NO3
